US08912188B2
To a solution of methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (200.0 mg, 0.68 mmol) in 1,4-dioxane (1 mL) was added 1-(tert-butoxycarbonyl)-5-methoxy-1H-indol-2-ylboronic acid (320.0 mg, 1.40 mmol), K3PO4 (440.0 mg, 2.08 mmol), Pd(PPh3)4 (40.0 mg, 0.03 mmol) under nitrogen atmosphere. After stirring 1 h at 90° C., the reaction mixture was dissolved in dichloromethane (50 mL), washed with water (3×20 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified by a silica gel column with 0.1%-1% ethyl acetate in petroleum ether to afford methyl 2-(1-(tert-butoxycarbonyl)-5-methoxy-1H-indol-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a light yellow solid (280.0 mg, 81%).

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.68 mmol, 200.0 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | 1-(tert-butoxycarbonyl)-5-methoxy-1H-indol-2-ylboronic acid | 1.40 mmol, 320.0 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)OC)B(O)O | C14H18BNO5
reactant | K3PO4 | 2.08 mmol, 440.0 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.03 mmol, 40.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(1-(tert-butoxycarbonyl)-5-methoxy-1H-indol-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 280.0 mg, 81% | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)OC)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C28H32N4O5
